US07241791B2
Step 2: 4-(7-chloro-2-isopropyl-1H-indazol-3-yl)phenol
Prepared according to Method D step C from 7-chloro-2-isopropyl-3-(4-methoxyphenyl)-2H-indazole (0.016 g, 0.05 mmol), boron tribromide (0.050 mL, 0.5 mmol) and 0.2 mL of cyclohexene to give the product (0.006 g).

reactant | 7-chloro-2-isopropyl-3-(4-methoxyphenyl)-2H-indazole | 0.05 mmol, 0.016 g | ClC1=CC=CC2=C(N(N=C12)C(C)C)C1=CC=C(C=C1)OC | C17H17ClN2O
reactant | boron tribromide | 0.5 mmol, 0.050 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 0.2 mL | C1=CCCCC1 | C6H10
product | 4-(7-chloro-2-isopropyl-1H-indazol-3-yl)phenol | 0.006 g | ClC=1C=CC=C2C(N(NC12)C(C)C)C1=CC=C(C=C1)O | C16H17ClN2O
